US07326791B2
rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrol-1-ylcarbonyl)benzamide
200 mg (0.49 mmol) of rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide and 167 mg (0.73 mmol) of 2,3-dichloro-5,6-dicyano-p-benzoquinone are stirred in 5 mL dioxane for 10 hours at 100° C. Then the solvent is distilled off and the residue is chromatographed on silica gel, eluting with dichloromethane/methanol (0%-6%). Yield: 30 mg (15%); Rf value: 0.62 (silica gel: dichloromethane/ethanol=9:1); C22H19ClN4O2 (406.875); mass spectrum: (M+H)+=407/409 (chlorine isotope).

reactant | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | 0.49 mmol, 200 mg | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CC=CC2)C)=O)C=C1 | C22H21ClN4O2
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 0.73 mmol, 167 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrol-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2C=CC=C2)C)=O)C=C1 | C22H19ClN4O2
